US08044063B2
4-[3-chloro-4-(3-fluorobenzyloxy)-phenylamino]-6,7-dimethoxy-quinazoline
4-chloro-6,7-dimethoxy-quinazoline (1.50 g) and 3-choro-4-(m-fluoro-benzyloxy)-aniline (1.70 g) were dissolved into 150 mL of isopropanol. The mixture was reacted under reflux for 3 h, and a lot of yellow solid was deposited. The precipitated solid was filtered, and the filter cake was washed with cold ethanol and dried at 60° C. under vacuum overnight to obtain the title compound (2.50 g, 84%).

reactant | 4-chloro-6,7-dimethoxy-quinazoline | 1.50 g | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
reactant | 3-choro-4-(m-fluoro-benzyloxy)-aniline | 1.70 g | ClC=1C=C(N)C=CC1OCC1=CC(=CC=C1)F | C13H11ClFNO
solvent | isopropanol | 150 mL | C(C)(C)O | C3H8O
product | 4-[3-chloro-4-(3-fluorobenzyloxy)-phenylamino]-6,7-dimethoxy-quinazoline | 2.50 g, 84% | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC1=NC=NC2=CC(=C(C=C12)OC)OC | C23H19ClFN3O3
